US04673692
0.93 g of 3,5-di-t-butyl-4-hydroxybenzophenone oxime was dissolved in pyridine, and 0.28 g of acetyl chloride was added dropwise at room temperature. Thereafter, the mixture was stirred for 20 minutes. The reaction mixture was poured into ice water, extracted with benzene, washed with 4% HCl, water and a saturated aqueous solution of sodium bicarbonate, and dried. The solvent was distilled off, and the resulting crystals were recrystallized from ether/n-hexane to give 3,5-di-t-butyl-4-hydroxybenzophenone O-acetyloxime.

reactant | 3,5-di-t-butyl-4-hydroxybenzophenone oxime | 0.93 g | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)=NO)C=C(C1O)C(C)(C)C | C21H27NO2
reactant | acetyl chloride | 0.28 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,5-di-t-butyl-4-hydroxybenzophenone O-acetyloxime | C(C)(=O)ON=C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC=CC=C1 | C23H29NO3
